US04908363
5.35 g of 1-amino-2-methylimidazole hydrochloride are dissolved in 300 ml of ethanol, whereupon 9.3 g of 4-hydroxy-3,5-di-tert.-butylbenzaldehyde are added. The mixture is stirred at room temperature for 1 hour and then evaporated in a vacuum. 150 ml of ice-water and 200 ml of methylene chloride are added to the residue and the mixture is neutralized (pH=7) with saturated sodium bicarbonate solution. The methylene chloride phase is separated and the aqueous phase is extracted with 100 ml of methylene chloride. The combined methylene chloride phases are dried and evaporated. The residue is stirred with ether and filtered. The filter residue is dried at 80° in a vacuum and there is obtained 1-(4-hydroxy-3,5-di-tert.-butylbenzylideneamino)-2-methylimidazole of m.p. 206°-207°.

reactant | 1-amino-2-methylimidazole hydrochloride | 5.35 g | Cl.NN1C(=NC=C1)C
reactant | 4-hydroxy-3,5-di-tert.-butylbenzaldehyde | 9.3 g | OC1=C(C=C(C=O)C=C1C(C)(C)C)C(C)(C)C | C15H22O2
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 1-(4-hydroxy-3,5-di-tert.-butylbenzylideneamino)-2-methylimidazole | OC1=C(C=C(C=NN2C(=NC=C2)C)C=C1C(C)(C)C)C(C)(C)C | C19H27N3O
